US03997548
To a solution of 0.5 g. 4-hydroxy-2,1-benzisothiazole and 20 ml. dimethylformamide was added 0.4 g. of a 57 percent oil dispersion of sodium hydride at room temperature. After evolution of hydrogen from the mixture was completed, 1.1 g. dimethylcarbamoyl chloride was added and the mixture was stirred 16 hours at room temperature. Water (50 ml.) was added to the mixture, which was then extracted with chloroform. The chloroform extract was washed once with water and dried over calcium sulfate. Calcium sulfate was removed by filtration, and chloroform and dimethylformamide were evaporated from the filtrate in vacuo to give an oily residue. This was washed with hexane to give oily 2,1-benzisothiazol-4-yl N,N-dimethylcarbamate. This structure was confirmed by nmr. The insecticidal activity of this material was determined exactly as described in Example 12, whereby 2,1-benzisothiazole-4-yl N,N-dimethylcarbamate (500 ppm. concentration) destroyed 100 percent of bean aphides, two of five two-spotted mites, and had no effect on southern armyworms and Mexican bean beetle larvae.

reactant | 4-hydroxy-2,1-benzisothiazole | OC1=CC=CC=2C1=CSN2 | C7H5NOS
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | dimethylcarbamoyl chloride | CN(C(=O)Cl)C | C3H6ClNO
solvent | Water | 50 ml | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2,1-benzisothiazol-4-yl N,N-dimethylcarbamate | CN(C(OC1=CC=CC=2C1=CSN2)=O)C | C10H10N2O2S
